US03991124
An amount of 163.0 g of 3,5-dichlorophenol is dissolved in 200 ml of benzene and 79.1 g of anhydrous pyridine; there is then added dropwise at 5°-15° C with stirring, in the course of 1 hour, a solution of 134.6 g of caproic acid chloride in 200 ml of benzene. The temperature of the reaction mixture is allowed to rise to 20° C; the precipitated pyridine hydrochloride is filtered off, the benzene solution washed with water and, after drying over sodium sulphate, completely concentrated in a water-jet vacuum. The caproic acid-3,5-dichlorophenyl ester remaining (255 g) is heated to 60° C, and an addition then made to it at this temperature in the course of 10 minutes, with stirring, of 400 g of anhydrous aluminium chloride. After 5 hours, the liquid reaction mixture is poured, as stirring is maintained, into 3 liters of ice water. The initially oily precipitate fully crystallises during subsequent stirring. It is filtered off, washed with water and dried in vacuo to obtain 210.7 g of 2-hydroxy-4,6-dichlorocaprophenone, M.P. 39°-41° C.

reactant | 3,5-dichlorophenol | 163.0 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | caproic acid chloride | 134.6 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 79.1 g | N1=CC=CC=C1 | C5H5N
product | 2-hydroxy-4,6-dichlorocaprophenone | 210.7 g | OC(C(=O)C1=CC=CC=C1)CC(CCCl)Cl | C12H14Cl2O2
